US07338959B2
(5-{[2-(3-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-methyl-amino}-1-methyl-1H-benzoimidazol-2-yl)-(4-methoxy-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared following the procedure of example 78 using {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-(4-methoxy-phenyl)-carbamic acid tert-butyl ester (100 mg, 0.20 mmol) and 3-methanesulfonylmethyl-phenylamine (37 mg, 0.20 mmol) to give the desired product as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 9.44 (s, 1H), 7.80-7.82 (m, 2H), 7.63-7.70 (M, 2H), 7.56 (d, J=1.5 Hz, 1H), 7.34 (d, J=8.7 Hz, 2H), 7.25 (dd, J=8.6 and 1.2 Hz, 1H), 7.18 (t, J=7.5 Hz, 1H), 6.94 (d, J=9.0 Hz, 2H), 5.75 (d, J=6.0 Hz, 1H), 4.34 (s, 2H), 3.79 (s, 3H), 3.74 (s, 3H), 3.47 (s, 3H), 2.89 (s, 3H), 1.41 (s, 9H). MS (ESI) m/z=644 [M+H]+.

reactant | {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-(4-methoxy-phenyl)-carbamic acid tert-butyl ester | 0.20 mmol, 100 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OC)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl)=O | C25H27ClN6O3
reactant | 3-methanesulfonylmethyl-phenylamine | 0.20 mmol, 37 mg | CS(=O)(=O)CC=1C=C(C=CC1)N | C8H11NO2S
product | (5-{[2-(3-Methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-methyl-amino}-1-methyl-1H-benzoimidazol-2-yl)-(4-methoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OC)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC(=CC=C2)CS(=O)(=O)C)=O | C33H37N7O5S
